US08834832B2
Zinc 3,6,9-trioxaundecanedioate was prepared by essentially the procedure described above for zinc diglycolate, with the exception that 3,6,9-trioxaundecanedioic acid (23.86 g, 0.107 mole) was substituted for the diglycolic acid and was added directly to the water/zinc hydroxide slurry.

reactant | zinc diglycolate | C(COCC(=O)[O-])(=O)[O-].[Zn+2]
reactant | 3,6,9-trioxaundecanedioic acid | 0.107 mole, 23.86 g | C(COCCOCCOCC(=O)O)(=O)O | C8H14O7
reactant | diglycolic acid | C(COCC(=O)O)(=O)O | C4H6O5
reactant | water zinc hydroxide | O.[OH-].[Zn+2].[OH-]
product | Zinc 3,6,9-trioxaundecanedioate | C(COCCOCCOCC(=O)[O-])(=O)[O-].[Zn+2] | InChI=1S/C8H14O7.Zn/c9-7(10)5-14-3-1-13-2-4-15-6-8(11)12;/h1-6H2,(H,9,10)(H,11,12);/q;+2/p-2
